US08614220B2
8-Iodo-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide
A suspension of potassium 8-iodo-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate (394 mg, 1.0 mmol) in anhydrous dimethylformamide (10 mL) was treated with N-ethyl-N′,N′-diisopropyl carbodiimide hydrochloride (EDCI) (287 mg, 1.5 mmol) and with ammonium 1H-1,2,3-benzotriazol-1-ate (304 mg, 2 mmol). The reaction was stirred at room temperature overnight. The reaction was diluted with water and the resulting precipitate was collected by filtration to afford the title compound (320 mg, 90% yield).

reactant | potassium 8-iodo-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 1.0 mmol, 394 mg | IC1=NC=2C3=C(CCC2C=N1)C(=NN3C)C(=O)[O-].[K+]
reactant | ammonium 1H-1,2,3-benzotriazol-1-ate | 2 mmol, 304 mg | N1(N=NC2=C1C=CC=C2)C(=O)[O-].[NH4+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 8-Iodo-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | 320 mg, 90% yield | IC1=NC=2C3=C(CCC2C=N1)C(=NN3C)C(=O)N | C11H10IN5O
